US09340546B2
Step 3: tert-butyl 4-methyl-4-(methylthio)piperidine-1-carboxylate
To a solution of tert-butyl 4-methyl-4-sulfanyl-piperidine-1-carboxylate (380 mg, 1.642 mmol) in THF (5 mL) cooled to −78° C. was added LiHMDS (1.724 mL of 1 M, 1.724 mmol) and the solution stirred for 10 mins before MeI (256.3 mg, 0.1124 mL, 1.806 mmol) was added and the solution allowed to warm to 0° C. over approximately 1 h. The reaction was then quenched carefully by the addition of saturated ammonium chloride and extracted into EtOAc. The aqueous was further extracted with EtOAc and the combined organics were washed with brine, dried (MgSO4) and concentrated to give a yellow oil (390 mg, 96%).

reactant | tert-butyl 4-methyl-4-sulfanyl-piperidine-1-carboxylate | 1.642 mmol, 380 mg | CC1(CCN(CC1)C(=O)OC(C)(C)C)S | C11H21NO2S
reactant | LiHMDS | 1.724 mmol, 1 M, 1.724 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | MeI | 1.806 mmol, 0.1124 mL, 256.3 mg | CI | CH3I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-methyl-4-(methylthio)piperidine-1-carboxylate | 390 mg, 96% | CC1(CCN(CC1)C(=O)OC(C)(C)C)SC | C12H23NO2S
